US07560558B2
3-(7-Hydroxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine (126 mg) was dissolved in N,N-dimethylformamide (8 ml) to prepare a solution. Potassium carbonate (156 mg) and epibromohydrin (0.1 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 3-(6-methoxy-7-oxiranylmethoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine (48 mg, yield 33%).

reactant | 3-(7-Hydroxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine | 126 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=NC=C2C1)C)OC | C19H15N3O3
reactant | Potassium carbonate | 156 mg | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 0.1 ml | C(Br)C1CO1 | C3H5BrO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-(6-methoxy-7-oxiranylmethoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine | 48 mg, yield 33% | COC=1C=C2C(=CC=NC2=CC1OCC1OC1)OC=1C(=NC2=CC=NC=C2C1)C | C22H19N3O4
